Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Strawberry / Shellfish Derived / Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Cholangitis
 
Major Surgical or Invasive Procedure:
___: ___ ___ PTBD placement 
.
___: ___ line placement 

 
History of Present Illness:
___ year old male with colon cancer, reportedly
metastatic to the liver on chemo s/p prior right sided colon
resection, complicated by recurrent cholangitis and many prior
ERCP/stenting procedures, now with a repeat episode of
cholangitis, no current CBD stent in place. Pt is transferred 
form OSH due to having abdominal pain and fevers.
 
Past Medical History:
Metastatic colon cancer diagnosed he believes in ___ s/p 
resection followed by what sounds like FOLFOX and AVASTIN, but 
he is not sure.  Last chemo capecitabine 1 week ago.
Hypothyroidism
HTN
Diabetes, diet controlled

 
Social History:
___
Family History:
No cancers in family. Father died in ___ of unknown cause. 
Mother died of old age at ___.
 
Physical Exam:
Physical Examination on Admission: 
VS: T102, HR110, BP120/70, RR16, Sat96 RA
GEN: Jaundiced, nontoxic, mentating
RR: CTA ___
CV: RRR
ABD: abdomen soft mild RUQ tenderness no rebound or guarding 
reducible midline incisional hernia

Physical Examination on Discharge:
VS: 97.9, 76, 129/66, 18, 18% RA
GEN: Pleasant with NAD
HEENT: No scleral icterus
CV: RRR
PULM: CTAB
ABD: Right flank PTBD catheter capped, site c/d/I with DSD 
dressing over. 
EXT: Warm, no c/c/e
 
Pertinent Results:
RECENT LABS: 
___ 06:20AM BLOOD WBC-6.3 RBC-3.21* Hgb-12.0* Hct-32.2* 
MCV-100* MCH-37.4* MCHC-37.3* RDW-14.9 RDWSD-54.7* Plt ___
___ 06:20AM BLOOD Glucose-138* UreaN-15 Creat-1.3* Na-137 
K-4.0 Cl-101 HCO3-23 AnGap-17
___ 06:20AM BLOOD ALT-37 AST-15 AlkPhos-138* TotBili-0.6
___ 06:20AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.1

MICRO: 

___ OSH BCx              E.COLI
                             |     K.OXYTOCA        
                             |      (ESBL)    
AMPICILLIN------------  >=32 R         |
AMPICILLIN/SULBACTAM--  >=32 R         |
CEFAZOLIN-------------   <=4 S    >=64 R
CEFEPIME--------------   <=1 S     <=1 S
CEFTRIAXONE-----------   <=1 S       8 R
CIPROFLOXACIN---------   >=4 R  <=0.25 S
ERTAPENEM------------- <=0.5 S   <=0.5 S
GENTAMICIN------------   <=1 S     <=1 S
IMIPENEM/CILASTIN-----<=0.25 S  <=0.25 S
LEVOFLOXACIN----------   >=8 R     0.5 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------  <=16 R     <=1 S
TRIMETHOPRIM/SULFA----  <=20 S    <=20 S

___ PTBD:
PROCEDURE: 
1. Transabdominal ultrasound. 
2. Ultrasound guided right percutaneous transhepatic bile duct 
access. 
3. Right cholangiogram 
4. Brushings and biopsy of the stricture at the papilla. 
5. ___ right internal external biliary drain. 

 
Brief Hospital Course:
The patient  with history of chronic biliary obstruction 
presented from OSH with symptoms of biliary sepsis. He was 
transferred to SICU after growing GNRs in blood at OSH. ID was 
consulted and patient was started on Zosyn and Vancomycin. 
Patient underwent PTBD placement on HD 2, post procedure 
patient's LFTs started to downward. Patient was hemodynamically 
stable and transferred to the floor.  
Upon arrival to the floor patient's diet was advanced to regular 
and was well tolerated. Patient remained afebrile with LFTs down 
tranding. On HD 3, patient OSH cultures were positive for GNR 
and Vancomycin was discontinued. On HD 4, patient was 
transitioned to meropenem and sensitivity came back for OSH 
blood cultures. PTBD catheter was capped, PICC line was placed 
by ___. On HD 5, patient remained afebrile with normal LFTs, he 
was discharged home in stable condition. Patient received one 
dose of Ertapenem prior to discharge, and he will continue on 
Ertapenem at home for total of 14 days. 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
amlodipine 5', azelastine 137 nasal spray, capecitabine 1300mg 
fluocinoide cream, Flonase spray, synthroid ___

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
do not exceed more then 3000 mg/day  
2.  azelastine-fluticasone 137-50 mcg/spray nasal DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
___ - last day of this medication  
RX *ertapenem [Invanz] 1 gram 1 g PICC once a day Disp #*13 Vial 
Refills:*0 
5.  Heparin Flush (10 units/ml) 2 mL IV ONCE MR1  For PICC 
insertion  Duration: 1 Dose  
6.  Senna 8.6 mg PO BID:PRN Constipation  
7.  amLODIPine 5 mg PO DAILY  
8.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Cholangitis s/t biliary obstruction 
2. Sepsis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted to the surgery service at 
___ due to biliary stricture that caused sepsis. You underwent 
___ procedure and placement of PTBD drain and you were treated 
with antibiotics. You are now safe to return home to complete 
your recovery with the following instructions:
.
Please ___ Dr. ___ office at ___ or ___, 
___, RN at ___ if you have any questions or 
concerns. 
.
Please ___ your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. ___ or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
.
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
PTBD Catheter care: Please keep capped. Flush with 10 cc of 
sterile NS twice a day toward the patient. Do not aspirate. If 
you will have a fever, jaundice or increase abdominal pain, 
please open catheter to gravity drainage (bag provided) and ___ 
Dr. ___. Change dressing daily and prn. Monitor 
site for signs and symptoms of infection or leakage. 
.
PICC Line:
*Please monitor the site regularly, and ___ your MD, nurse 
practitioner, or ___ Nurse if you notice redness, swelling, 
tenderness or pain, drainage or bleeding at the insertion site.
* ___ your MD or proceed to the Emergency Room immediately if 
the PICC Line tubing becomes damaged or punctured, or if the 
line is pulled out partially or completely.  DO NOT USE THE PICC 
LINE IN THESE CIRCUMSTANCES.Please keep the dressing clean and 
dry. Contact your ___ Nurse if the dressing comes undone or is 
significantly soiled for further instructions.

 
Followup Instructions:
___